************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: OAI33X4
* View Name:     schematic
* Netlisted on:  Jun  4 07:48:06 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    OAI33X4
* View Name:    schematic
************************************************************************

.SUBCKT OAI33X4 A0 A1 A2 B0 B1 B2 VDD VSS Y
*.PININFO A0:I A1:I A2:I B0:I B1:I B2:I VDD:I VSS:I Y:O
Mmn0 no A0 VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn4 Y B0 no VSS g45n1svt m=1 l=45n w=1.04u
Mmn3 Y B1 no VSS g45n1svt m=1 l=45n w=1.04u
Mmn1 no A1 VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn2 no A2 VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn5 Y B2 no VSS g45n1svt m=1 l=45n w=1.04u
Mmp1 n2 A1 n1 VDD g45p1svt m=1 l=45n w=1.56u
Mmp4 n4 B0 n3 VDD g45p1svt m=1 l=45n w=1.56u
Mmp3 n3 B1 VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp5 Y B2 n4 VDD g45p1svt m=1 l=45n w=1.56u
Mmp0 n1 A0 VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp2 Y A2 n2 VDD g45p1svt m=1 l=45n w=1.56u
.ENDS

